US05656654
1,4-dihydroxy-2-tetralincarboxaldehyde
To a solution of 1,4-dihydroxy-tetralin (1.640 g, 0.010 mol) in dichloromethane (50 ml) was added titanium tetrachloride (5.69 g, 0.03 mol). Then 1,1-dichlorodimethyl ether (1.73 g, 0.015 mol) was added dropwise under vigorous stirring and the reaction mixture stirred for another 3 h at room temperature. Finally 5% hydrochloric acid (10 ml) was added under ice-cooling. The organic phase was separated and the residual aqueous phase repeatedly extracted with ether. The combined organic phases are washed with saturated saline solution, dried over sodium sulfate and evaporated under vacuum. The residue was crystallized from benzene or alternatively submitted to flash chromatography on silica gel with benzene/ethylacetate 85:15 to afford pure title compound in about 60% yield (1.080 g), m.p. 145° C.

reactant | 1,4-dihydroxy-tetralin | 0.010 mol, 1.640 g | OC1CCC(C2=CC=CC=C12)O | C10H12O2
reactant | 1,1-dichlorodimethyl ether | 0.015 mol, 1.73 g | COC(Cl)Cl | C2H4Cl2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 0.03 mol, 5.69 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1,4-dihydroxy-2-tetralincarboxaldehyde | about 60% yield | OC1C(CC(C2=CC=CC=C12)O)C=O | C11H12O3
